US06583321B1
Preparation of 2,2-Dimethylpropionic Acid 5-Bromo-2-isopropyloxy-phenylester
2,2-dimethylpropionic acid 5-bromo-2-hydroxyphenylester (500 mg) was dissolved in dimethylformamide and stirred with 1,8-diazabicyclo[5.4.0]undece-7-ene (DBU; 0.32 ml) for 10 minutes. Then, 2-bromopropane (0.25 ml) was added and heated at 40° C. After the reaction was completed, water was added to dilute and extracted with ethylacetate. An organic layer was dried over anhydrous magnesium sulfate, filtered, and distilled under reduced pressure. The residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/12, v/v). As a result, the present compound (340 mg, productive yield 60%) was obtained.

reactant | 2,2-dimethylpropionic acid 5-bromo-2-hydroxyphenylester | 500 mg | BrC=1C=CC(=C(C1)OC(C(C)(C)C)=O)O | C11H13BrO3
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-bromopropane | 0.25 ml | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-Dimethylpropionic Acid 5-Bromo-2-isopropyloxy-phenylester | yield 60% | BrC=1C=CC(=C(C1)OC(C(C)(C)C)=O)OC(C)C | C14H19BrO3
